US04728645
A solution of 1.65 g of 5-(p-cyanophenyl)-3-ethoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine in 10 ml of methanol containing 0.2 g of sodium hydroxide is stirred for 3 h at room temperature. The solution is warmed to reflux and 5 ml of 1N hydrochloric acid is added. After 1 h the reaction mixture is cooled and evaporated. The residue is partitioned between water and ethyl acetate. The organic layer is separated, dried over sodium sulfate and evaporated to yield 5-(p-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine, m.p. 128°-131°.

reactant | 5-(p-cyanophenyl)-3-ethoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 1.65 g | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C(=NC2)C(=O)OCC | C17H17N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | methanol | 10 ml, 0.2 g | CO | CH4O
product | 5-(p-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
